US09315458B2
B) methyl 3-fluoro-2-hydroxy-4-methylbenzoate
To a solution of 3-fluoro-2-hydroxy-4-methylbenzoic acid (10.5 g) in methanol (50.0 mL) was added sulfuric acid (5.00 mL) at room temperature, and the mixture was stirred at 60° C. for 24 hr. The solvent was evaporated under reduced pressure, to the residue were added water and ethyl acetate, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (6.40 g).

reactant | 3-fluoro-2-hydroxy-4-methylbenzoic acid | 10.5 g | FC=1C(=C(C(=O)O)C=CC1C)O | C8H7FO3
reactant | sulfuric acid | 5.00 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50.0 mL | CO | CH4O
product | methyl 3-fluoro-2-hydroxy-4-methylbenzoate | 6.40 g | FC=1C(=C(C(=O)OC)C=CC1C)O | C9H9FO3
